US04061656
1.9 G. of 2,4,5-trimethyl-3-thiophenecarboxaldehyde and 6.75 g. of (7-ethoxycarbonyl-2,6-dimethyl-2,4,6-heptatrienyl)triphenylphosphonium bromide are dissolved in 50 ml of dry dimethylformamide. The solution is treated at 10° C. dropwise with a solution of 0.29 g. of sodium in 8 ml. of ethanol. The mixture is subsequently stirred for 4 hours at room temperature, then introduced into 100 ml. of methanol/water 60:40 parts by volume and thoroughly extracted with hexane. The hexane extract is washed with methanol/water (60:40 parts by volume, then with water, dried over sodium sulfate and evaporated. There is obtained 3,7-dimethyl-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester, which melts after recrystallization from hexane at 88°-89° C.

reactant | 2,4,5-trimethyl-3-thiophenecarboxaldehyde | CC=1SC(=C(C1C=O)C)C | C8H10OS
reactant | (7-ethoxycarbonyl-2,6-dimethyl-2,4,6-heptatrienyl)triphenylphosphonium bromide | [Br-].C(C)OC(=O)C=C(C=CC=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C
reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,7-dimethyl-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(SC(=C1C)C)C)C)C)=O | C20H26O2S
